US08012976B2
(E)-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one
A solution of 1-methyl-1H-imidazole-2-carbaldehyde (680 mg, 6.18 mmol), 4-aminoisobenzofuran-1(3H)-one (920.8 mg, 6.18 mmol) and anhydrous magnesium sulfate (7.41 g, 61.8 mmol) in acetonitrile (100 ml) was heated to reflux for two days. The mixture was filtered and the solvents were removed in vacuum. The crude product was re-crystallized from isopropanol to get the title compound (1.49 g, yield 68%). LC-MS (ESI) m/z: 242 (M+1)+. 1H-NMR (400 MHz, DMSO-d6); 4.06 (s, 3H), 5.52 (s, 2H), 7.22 (s, 1H), 7.52 (s, 1H), 7.65-7.67 (m, 1H), 7.72-7.74 (m, 2H), 8.66 (s, 1H).

reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 6.18 mmol, 680 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | 4-aminoisobenzofuran-1(3H)-one | 6.18 mmol, 920.8 mg | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | magnesium sulfate | 61.8 mmol, 7.41 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (E)-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one | 1.49 g, yield 68% | CN1C(=NC=C1)\C=N\C1=C2COC(C2=CC=C1)=O | C13H11N3O2
